US05574163
Bis(1 -oxyl-2,2,6,6-tetramethylpiperidin-4-yl) Adipate
Following the general procedure of Example 1, 20.8 g (0.119 mol) of 1-oxyl-2,2,6,6-tetramethylpiperidin-4-ol, 10.3 g (0.06 mol) of dimethyl adipate and 70 ml of heptane are heated to reflux and 15 ml of slightly turbid distillate is removed from the Dean-Stark trap. The mixture is cooled to about 75° C. and 0.3 g of tetraisopropyl orthotitanate in 15 ml of heptane is added to the flask. The mixture is heated to reflux and heating at reflux temperature 100°-105° C. is continued for 7 hours. Heating is stopped and the reaction mixture is cooled to room temperature. Another 0.3 g of tetraisopropyl orthotitanate in 15 ml of heptane is added to the flask. The mixture is heated to reflux and heating at reflux temperature 100°-105° C. is again continued for 6 hours. Water (2 ml) and 50 ml of toluene are then added to the reaction mixture and heating is continued till the water is removed. The reaction mixture is then filtered and washed with toluene. The filtrate is vacuum stripped and the residue is recrystallized from heptane. Orange crystals form on standing, are collected by filtration and are washed with heptane. The crystals melt at 121°-122° C.

reactant | 1-oxyl-2,2,6,6-tetramethylpiperidin-4-ol | 0.119 mol, 20.8 g | ON1C(CC(CC1(C)C)O)(C)C | C9H19NO2
reactant | dimethyl adipate | 0.06 mol, 10.3 g | C(CCCCC(=O)OC)(=O)OC | C8H14O4
solvent | heptane | 70 ml | CCCCCCC | C7H16
product | Bis(1 -oxyl-2,2,6,6-tetramethylpiperidin-4-yl) Adipate | C(CCCCC(=O)OC1CC(N(C(C1)(C)C)O)(C)C)(=O)OC1CC(N(C(C1)(C)C)O)(C)C | C24H44N2O6
